US07674795B2
The procedure used in Example 6 is followed, starting from 950 mg of 4-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 135 mg of Raney nickel in 20 ml of ethanol and 20 ml of tetrahydrofuran for 16 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, concentration to dryness under reduced pressure, and then purification by formation of a paste with diisopropyl ether, in this way we obtain 700 mg of 4-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine, in the form of an orange powder which is used as it is in the following stage.

reactant | 4-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime | 950 mg | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1N1CCN(CCC1)C | C26H24FN5O
catalyst | Raney nickel | 135 mg | [Ni] | Ni
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine | 700 mg | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1N1CCN(CCC1)C | C26H26FN5
